US06391336B1
Preparation of an Inorganic-biopolymer Complex Containing Bound and Free Amikacin
Calcium sulfate (1 g) is thoroughly mixed with 50 mg of chondroitin sulfate-amikacin (above) and 25 mg amikacin sulfate(1:2). Hyaluronic acid solution (0.6 ml, 2%) is added and the mixture handled as described in Example 1.

reactant | Calcium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | amikacin sulfate | 25 mg | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N.OS(=O)(=O)O
product | Amikacin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1NC(=O)[C@H](CCN)O)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CN)O)O)O)N | C22H43N5O13
